US07855290B2
[4-(3-Fluoro-4-{[1-(2-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester
A crude product of [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester (410 mg) was dissolved in N,N-dimethylformamide (5 ml). 1-(2-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (223 mg), triethylamine (0.139 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (442 mg) were added under a nitrogen atmosphere at room temperature and stirred overnight. Liquid-liquid separation was carried out after addition of ethyl acetate and water to the reaction mixture. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (3 times) and brine in this order, and dried over anhydrous sodium sulfate. The solvent was removed and the resultant residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=3:2 to 1:1) to provide the titled compound as white powder (90.6 mg).

reactant | [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 410 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F)=O | C25H18FN3O5
reactant | 1-(2-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 223 mg | FC1=C(C=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 0.139 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 442 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [4-(3-Fluoro-4-{[1-(2-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 90.6 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(NC1=C(C=CC=C1)F)=O)F)=O | C36H26F2N4O7
